US06713485B2
(4-Benzenesulphonyl-phenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine
(4-Benzenesulphonyl-phenyl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine (3.67 g) and 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan (6.9 g) were reacted together in dioxan (100 ml) as in Procedure B. Purification by column chromatography gave a cream solid (2.59 g); δH [2H6]DMSO 10.6 (1H, s) 9.26 (1H, s) 8.82 (1H, s) 8.78 (1H, s) 8.25 (2H, d) 8.0-8.3 (4H, d+m) 7.65-7.8 (3H, m) 7.21 (1H, d) 6.82 (1H, d) 6.09 (1H, s) 4.0-4.2 (4H, m); m/z 501 (M+1)+.

reactant | (4-Benzenesulphonyl-phenyl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 3.67 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)Cl | C19H13ClN4O2S
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan | 6.9 g | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | (4-Benzenesulphonyl-phenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine | 2.59 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)C2OCCO2 | C26H20N4O5S
